US04374060
BOC-N-Me-Ala-Tyr-OME
1 liter of ethyl acetate under nitrogen is cooled to between -5° and 0° C. and isobutyl chloroformate (37.6 ml, 290 mmole) is added followed by N-methylmorpholine (31.9 ml, 290 mmole). A sticky white solid forms and after 10 minutes BOC-N-methylalanine (58.9 grams, 290 mmoles) is added. A more granular solid forms and after 20 minutes tyrosine methylesterhydrochloride (57.93 grams, 250 mmoles) is added. Additional N-methylmorpholine (27.9 ml, 250 mmoles) is then added to obtain a pH of about 8. After 2.5 hours of stirring the mixture is washed three times with 500 ml of 1 N sodium bicarbonate and three times with 500 ml of 0.5 molar citric acid and dried over sodium sulfate. The reaction mixture is concentrated in vacuo affording the following crops of crystalline materials:

reactant | isobutyl chloroformate | 290 mmole, 37.6 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 290 mmole, 31.9 ml | CN1CCOCC1 | C5H11NO
reactant | BOC-N-methylalanine | 290 mmoles, 58.9 grams | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | tyrosine methylesterhydrochloride | 250 mmoles, 57.93 grams | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | N-methylmorpholine | 250 mmoles, 27.9 ml | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | BOC-N-Me-Ala-Tyr | N([C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)(C)C(=O)OC(C)(C)C | C18H26N2O6
